US07807709B2
a. 2-Chloro-5-hydroxy-4-methoxy-benzaldehyde
2-Chloro-4,5-dimethoxybenzaldehyde (5.00 g, 24.9 mmol; commercially available from Akos Consulting) is dissolved at room temperature in conc. H2SO4 (23 mL; Riedel) at room temperature. The deeply colored mixture is heated at 65° C. overnight with stirring, and after cooling is poured with caution into ice-water containing 38 g of solid NaOH (pH 14). The water phase is washed twice with AcOEt, and then is adjusted to pH 1 by addition of HCl 37% with ice-cooling to form a white suspension. Extraction with AcOEt, drying of the organics over MgSO4 and evaporation gives the crude product in a mixture with unreacted starting material. The title compound is obtained after silica gel chromatography (hexane/AcOEt gradient from 3:1 to 1:1) as white solid. TLC, Rf (hexane/AcOEt 1:1)=0.35. MS: 187.0 [M+H]+. ]+. 1H-NMR (DMSO-d6): δ 3.41 (s, 3H), 7.14 (s, 1H), 7.45 (s, 1H), 9.83 (s, 1H), 10.2 (s, 1H) ppm.

reactant | 2-Chloro-4,5-dimethoxybenzaldehyde | ClC1=C(C=O)C=C(C(=C1)OC)OC | C9H9ClO3
reactant | NaOH | pH 14 | [OH-].[Na+]
reactant | hexane AcOEt | CCCCCC.CCOC(=O)C
solvent | H2SO4 | 23 mL | OS(=O)(=O)O | H2O4S
product | 2-Chloro-5-hydroxy-4-methoxy-benzaldehyde | ClC1=C(C=O)C=C(C(=C1)OC)O | C8H7ClO3
